US09108938B2
2,3-Dichloro-N-(2-morpholino-2-pyrimidin-5-yl-ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-morpholin-4-yl-2-pyrimidin-5-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-morpholin-4-yl-2-pyrimidin-5-yl-ethylamine | N1(CCOCC1)C(CN)C=1C=NC=NC1 | C10H16N4O
product | 2,3-Dichloro-N-(2-morpholino-2-pyrimidin-5-yl-ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC=NC2)N2CCOCC2)C=CC=C1Cl | C17H18Cl2N4O2
